US07265120B2
A mixture of 3-amino-5-(2-bromophenyl)-6-(1-isopropyl-6-oxo-1,6-dihydro-3-pyridazinyl)-2-pyrazinecarboxylic acid (601 mg) in 1,2-dichlorobenzene (3 ml) was refluxed for 2 hours. After cooling, the mixture was purified by column chromatography on silica gel (EtOAc only) to give a solid. The solid was suspended with acetone and collected by filtration to give 6-[5-amino-3-(2-bromophenyl)-2-pyrazinyl]-2-isopropyl-3(2H)-pyridazinone as a solid (554 mg).

reactant | 3-amino-5-(2-bromophenyl)-6-(1-isopropyl-6-oxo-1,6-dihydro-3-pyridazinyl)-2-pyrazinecarboxylic acid | 601 mg | NC=1C(=NC(=C(N1)C1=C(C=CC=C1)Br)C1=NN(C(C=C1)=O)C(C)C)C(=O)O | C18H16BrN5O3
reactant | acetone | CC(=O)C | C3H6O
solvent | 1,2-dichlorobenzene | 3 ml | ClC1=C(C=CC=C1)Cl | C6H4Cl2
product | 6-[5-amino-3-(2-bromophenyl)-2-pyrazinyl]-2-isopropyl-3(2H)-pyridazinone | 554 mg | NC=1N=C(C(=NC1)C=1C=CC(N(N1)C(C)C)=O)C1=C(C=CC=C1)Br | C17H16BrN5O
